US09023858B2
C) 1-nitro-4-(2,2,2-trifluoroethoxy)benzene
1-Fluoro-4-nitrobenzene (10.6 g) and 2,2,2-trifluoroethanol (12.0 g) were dissolved in N,N-dimethylformamide (80 ml), and potassium carbonate (15.5 g) was added thereto. The mixture was stirred at 80° C. for 2 hr, and allowed to be cooled. To the reaction mixture was added ethyl acetate (100 ml), and the white precipitate was removed by filtration. The filtrate was concentrated under reduced pressure to give an orange residue. The obtained residue was again dissolved in ethyl acetate (400 ml), and the solution was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give an orange crude solid. The obtained solid was washed with a mixed solvent of 10% diethyl ether/hexane to give the title compound (15.8 g) as yellow-white needle crystals.

reactant | 1-Fluoro-4-nitrobenzene | 10.6 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2,2,2-trifluoroethanol | 12.0 g | FC(CO)(F)F | C2H3F3O
reactant | potassium carbonate | 15.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-nitro-4-(2,2,2-trifluoroethoxy)benzene | 15.8 g | [N+](=O)([O-])C1=CC=C(C=C1)OCC(F)(F)F | C8H6F3NO3
